US05958944
Methyl (R)-4-(1-acetamidoethyl)-3-nitrobenzoate (650 mg) was dissolved in 2N hydrochloric acid, and the mixture was refluxed for 2 hours. After the reaction, the reaction mixture was evaporated under reduced pressure, and further boiled with toluene, which was followed by drying to give 620 mg of (R)-4-(1-aminoethyl)-3-nitrobenzoic acid hydrochloride.

reactant | Methyl (R)-4-(1-acetamidoethyl)-3-nitrobenzoate | 650 mg | C(C)(=O)N[C@H](C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H14N2O5
reactant | hydrochloric acid | 2N | Cl | ClH
product | (R)-4-(1-aminoethyl)-3-nitrobenzoic acid hydrochloride | 620 mg | Cl.N[C@H](C)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | InChI=1S/C9H10N2O4.ClH/c1-5(10)7-3-2-6(9(12)13)4-8(7)11(14)15;/h2-5H,10H2,1H3,(H,12,13);1H/t5-;/m1./s1
